US06489517B1
Second Step of the process: Preparation of 5,5′-dichloro-3,3′,6,6′-tetramethyl-2,2′-biphenol
To a mechanically-stirred mixture of 71.4 g (0.458 mol) of 4-chloro-2,5-xylenol and 120 mL of nitromethane was added 94 g (0.59 mol) of anhydrous ferric chloride in portions over about 20 minutes with cooling to maintain the temperature below 35° C. The mixture was stirred for an additional 3 hours and then 300 mL of ice water containing 50 mL of concentrated HCl was added, followed by 300 mL of hexanes. The mixture was filtered, and the solids were washed with water and hexanes and dried in vacuo to give 51.0 g of product. The organic phase was separated from the filtrate, washed with water, and concentrated; the residue was then slurried in hexanes and filtered to give another 11 g of product. The total yield was thus 62 g (87%) of a tan solid (mp 148-155° C.). Additional purification to remove traces of iron helps facilitate the subsequent reductive dechlorination. Purification could be accomplished by dissolving in ethyl acetate, washing this solution with aqueous ethylenediamine-tetraacetic acid disodium salt (EDTA-2Na, EDTA=ethylenediaminetetraacetic acid), drying (MgSO4), concentration and washing with hexanes to afford off-white material with mp 164° C. 1H-NMR (CDCl3) δ 1.98 (s, 3H), 2.25 (s, 3H), 4.60 (s, 1H), 7.25 (s, 1H).

reactant | 4-chloro-2,5-xylenol | 0.458 mol, 71.4 g | ClC=1C=C(C(=CC1C)O)C | C8H9ClO
reactant | HCl | Cl | ClH
solvent | nitromethane | 120 mL | [N+](=O)([O-])C | CH3NO2
product | 5,5′-dichloro-3,3′,6,6′-tetramethyl-2,2′-biphenol | 51.0 g | ClC1=CC(=C(C(=C1C)O)C=1C(=C(C(=CC1C)Cl)C)O)C | C16H16Cl2O2
